US08058447B2
5-(3-Cyclobutylpropanoyl)-4-(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonitrile
A solution of 100 mg (0.45 mmol) of 5,6-difluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde in 5 ml of 2-propanol is mixed with 46.9 mg (0.45 mmol) of sodium 1-cyanoprop-1-en-2-olate, 74.61 mg (0.45 mmol) of 5-amino-1-cyclobutylhex-4-en-3-one (example 15, stage a) and 0.04 ml (0.67 mmol) of acetic acid and stirred under reflux for 3 h. After cooling, the mixture is concentrated. The residue is purified on an Analogix cartridge (F12M) (mobile phase: cyclohexane/ethyl acetate 2:1). 71.2 mg (36.4% of theory) of the title compound are obtained as yellow crystals.

reactant | 5,6-difluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.45 mmol, 100 mg | FC1=C2C(C=C(OC2=C(C=C1F)C=O)C)=O | C11H6F2O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.45 mmol, 46.9 mg | C(#N)C=C(C)[O-].[Na+]
reactant | 5-amino-1-cyclobutylhex-4-en-3-one | 0.45 mmol, 74.61 mg | NC(=CC(CCC1CCC1)=O)C | C10H17NO
reactant | acetic acid | 0.67 mmol, 0.04 ml | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | 5-(3-Cyclobutylpropanoyl)-4-(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carbonitrile | C1(CCC1)CCC(=O)C=1C(C(=C(NC1C)C)C#N)C=1C=C(C(=C2C(C=C(OC12)C)=O)F)F | C25H24F2N2O3
